US08476286B2
A. Synthesis of (2-amino-4,5-dimethoxy-phenyl)-(4-isopropyl-phenyl)-methanone
18.8 ml (30 mmol) of BuLi (1.6 M in hexane) is added dropwise to a cooled (−5° C.) solution of 6 g (30 mmol) 4-isopropyl-1-bromobenzene in 25 ml ether. The reaction mixture is stirred for 15 min at −5° C. and one additional hour at rt. After that time the solution is cooled to −5° C. and a solution 1.8 g (10 mmol) 2-amino-4,5-dimethoxybenzonitrile in 20 ml ether/THF (1:1) is added dropwise. After 30 min the reaction mixture is poured slowly into water and extracted with ethyl acetate. The organic layer is dried and evaporated. The crude material is dissolved in 200 ml ether and stirred with 100 ml 2N HCl for one hour. After chromatography (DCM/MeOH 15:1) the product is obtained as yellow oil.

reactant | BuLi | 30 mmol, 1.6 M, 18.8 ml | [Li]CCCC
reactant | 4-isopropyl-1-bromobenzene | 30 mmol, 6 g | C(C)(C)C1=CC=C(C=C1)Br | C9H11Br
reactant | 2-amino-4,5-dimethoxybenzonitrile | NC1=C(C#N)C=C(C(=C1)OC)OC | C9H10N2O2
reactant | water | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether THF | 20 ml | CCOCC.C1CCOC1
product | (2-amino-4,5-dimethoxy-phenyl)-(4-isopropyl-phenyl)-methanone | NC1=C(C=C(C(=C1)OC)OC)C(=O)C1=CC=C(C=C1)C(C)C | C18H21NO3
